US08357711B2
3-[(1,3,4-Thiadiazol-2-ylamino)sulfonyl]benzoic acid
A solution of methyl 3-[(1,3,4-thiadiazol-2-ylamino)sulfonyl]benzoate (Preparation 103, 1.0 g, 3.35 mmol, 1 eq) in 2.5M sodium hydroxide (5 ml, 13.4 mmol, 4 eq) and dioxane (1 ml) was heated at 50° C. for 4 hours. The organic solvent was evaporated in vacuo and the residue acidified with 2M hydrochloric acid. The resultant precipitate was collected by filtration and washed with water to yield the title compound (0.5 g, 1.75 mmol, 52%).

reactant | methyl 3-[(1,3,4-thiadiazol-2-ylamino)sulfonyl]benzoate | 3.35 mmol, 1.0 g, 1 eq | S1C(=NN=C1)NS(=O)(=O)C=1C=C(C(=O)OC)C=CC1 | C10H9N3O4S2
reactant | sodium hydroxide | 13.4 mmol, 2.5M, 5 ml, 4 eq | [OH-].[Na+]
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
product | 3-[(1,3,4-Thiadiazol-2-ylamino)sulfonyl]benzoic acid | 1.75 mmol, 0.5 g, 52% | S1C(=NN=C1)NS(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C9H7N3O4S2
